data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1425,1567,[CH3:18][NH:19][C:20](=[O:21])[CH:22]=[NH+:23][C-:24]([CH3:25])[C:26]#[N:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:24]([CH3:25])([C:26]#[N:27])[NH:23][CH:22]2[C:20]([NH:19][CH3:18])=[O:21],water,298.15,12.522296674201913,-26.97183675100777
1921,2129,[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:21]([C:22](=[O:23])[O:24][CH3:25])([C:26](=[O:27])[O:28][CH3:29])[O:20][N:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,15.925267558725649,-44.35111762823372
717,778,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2.[N:14]#[C:15][C:16]#[N+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:16]([C:15]#[N:14])=[N:17][CH:18]2[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,10.029973301974472,-45.96488771663728
2880,3200,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([C:11]([CH3:12])=[O:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C-:26]([O+:27]=[C:28]([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1)[c:41]1[cH:42][cH:43][cH:44][cH:45][cH:46]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([C:11]([CH3:12])=[O:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([NH:23][CH3:22])=[O:25])([c:41]1[cH:42][cH:43][cH:44][cH:45][cH:46]1)[O:27][C:28]2([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1,water,298.15,18.00366541524927,-32.075003514731584
3734,4271,[CH3:9][C:10](=[O:11])[C:12](=[NH+:13][C-:14]([CH3:15])[C:16]#[N:17])[C:18]([CH3:19])=[O:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:14]([CH3:15])([C:16]#[N:17])[NH:13][C:12]1([C:10]([CH3:9])=[O:11])[C:18]([CH3:19])=[O:20],water,298.15,23.827543308778647,-14.078653284298616
3241,3660,[CH3:6][CH-:7][O+:8]=[C:9]([CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[CH:7]([CH3:6])[O:8][C:9]1([CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,19.972580367886263,-19.62098500270461
1975,2192,[CH3:15][O:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24](=[O:25])[O:26][CH3:27])[o+:28]1.[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([F:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([F:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:23]1([C:24](=[O:25])[O:26][CH3:27])[C:21](=[O:22])[O:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[O:28]1,water,298.15,12.039005294204124,-35.27554950094204
285,309,[CH3:1][O:2][C:3]1=[C:4]([O:5][CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2.[CH:12]#[N+:13][C-:14]([CH3:15])[C:16](=[O:17])[O:18][CH3:19]>>[CH3:1][O:2][C:3]1=[C:4]([O:5][CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:14]([CH3:15])([C:16](=[O:17])[O:18][CH3:19])[N:13]=[CH:12]3,water,298.15,12.900061066815963,-61.70619531515111
3104,3494,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C-:6]([N+:7]#[C:8][C:9]#[N:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:6]([CH3:5])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:7]=[C:8]1[C:9]#[N:10],water,298.15,19.133036910235568,-38.84140434394081
375,406,[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:17]([C:18]([CH3:19])=[O:20])=[N:16][N:15]3[C:13]([NH:12][CH3:11])=[O:14],water,298.15,11.705807721181356,-66.5299385921154
4718,5386,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[NH:16][C:17]2([CH3:18])[CH3:19],water,298.15,24.0917860265158,-16.595237941569554
